US04409017
A slight excess of ethanolic potassium hydroxide was added to a solution of ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate in ethanol at room temperature. The mixture was stirred for 12 hrs, then evaporated. The residue was diluted with water, acidified with dilute hydrochloric acid and extracted with dichloromethane. The dichloromethane extract was dried over sodium sulfate and then evaporated to give 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionic acid as a yellow solid, mp 136° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate | ClC1=NC(=CC2=CC=C(C=C12)Cl)N(C)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C21H20Cl2N2O3
solvent | ethanol | C(C)O | C2H6O
product | 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionic acid | ClC1=NC(=CC2=CC=C(C=C12)Cl)N(C)C1=CC=C(OC(C(=O)O)C)C=C1 | C19H16Cl2N2O3
